US07985730B2
N-[2-({(3R)-1-[4-Hydroxy-4-(1,3-thiazol-2-yl)cyclohexyl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide.
To a mixture of 4-hydroxy-4-(1,3-thiazol-2-yl)cyclohexanone (0.075 g, 0.38 mmol) and N-[2-oxo-2-({2-oxo-2-[(3R)-pyrrolidin-3-ylamino]ethyl}amino)ethyl]-3-(trifluoromethyl)benzamide (0.10 g, 0.317 mmol) in 2% AcOH/CH2Cl2 (10 mL) was added NaB(OAc)3H (0.134 g, 0.634 mmol). After being stirred overnight at room temperature under N2, the reaction mixture was diluted with EtOAc and washed with saturated Na2CO3. The aqueous was extracted with EtOAc (3×). The combined organic layers were dried (MgSO4), concentrated and flash chromatographed [EtOAc to MeOH/EtOAc (1:9) then to 5% MeOH/EtOAc/Et3N (1:9:0.5)] to give 0.141 g of the title compound in 90% yield. MS (EI) calcd: (M+H)+=497.2; found: 497.3.

reactant | 4-hydroxy-4-(1,3-thiazol-2-yl)cyclohexanone | 0.38 mmol, 0.075 g | OC1(CCC(CC1)=O)C=1SC=CN1 | C9H11NO2S
reactant | N-[2-oxo-2-({2-oxo-2-[(3R)-pyrrolidin-3-ylamino]ethyl}amino)ethyl]-3-(trifluoromethyl)benzamide | 0.317 mmol, 0.10 g | O=C(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)NCC(N[C@H]1CNCC1)=O | C16H19F3N4O3
reactant | NaB(OAc)3H | 0.634 mmol, 0.134 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | AcOH CH2Cl2 | 10 mL | CC(=O)O.C(Cl)Cl
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[2-({(3R)-1-[4-Hydroxy-4-(1,3-thiazol-2-yl)cyclohexyl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide | 0.141 g, 90% yield | OC1(CCC(CC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)C=1SC=CN1 | C23H27F3N4O3S
